US05998429
A. N-(4-Bromophenyl)carbamic Acid 1-azabicyclo[2.2.2]octan-3-yl Ester
3-Quinuclidinol and 4-bromophenyl isocyanate were used. Filtration of the precipitated solid from the cooled reaction mixture afforded the title compound (60%) as a white solid: mp 217.5-219.5° C.; FAB LRMS m /z (relative intensity, %)328(16), 327 ([MH+ with Br81 ], 100), 326(16), 325 ([MH+ with Br79 ], 100).

reactant | 3-Quinuclidinol | N12CC(C(CC1)CC2)O | C7H13NO
reactant | 4-bromophenyl isocyanate | BrC1=CC=C(C=C1)N=C=O | C7H4BrNO
product | N-(4-Bromophenyl)carbamic Acid 1-azabicyclo[2.2.2]octan-3-yl Ester | 60% | N12CC(C(CC1)CC2)OC(NC2=CC=C(C=C2)Br)=O | C14H17BrN2O2
